US04497650
1,2-Dihydro-2,2-dimethyl-3-ethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one
The title compound was prepared from 2-aminobenzimidazole, acetone and ethyl isocyanate by the procedure described in the first paragraph of Example 1. In this preparation, a 10-N-methylcarbamoyl derivative was not isolated and the subject compound was recovered from the Soxhlet extraction and recrystallized from acetone to give a solid, mp above 300° C. (dec). The confirmatory elemental analysis is shown in Table III.

reactant | 2-aminobenzimidazole | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
reactant | acetone | CC(=O)C | C3H6O
product | 1,2-Dihydro-2,2-dimethyl-3-ethyl-1,3,5-triazino[1,2-a]benzimidazol-4(3H)-one | CC1(NC2=NC3=C(N2C(N1CC)=O)C=CC=C3)C | C13H16N4O
